US07358250B2
Step A: [4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-acetonitrile
A slurry of 357 mg (1.6 mmol) of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol and 650 mg (4.7 mmol) of K2CO3 in 5 ml DMF was cooled to 0° C. and treated with 220 μl (3.2 mmol) of bromoacetonitrile dropwise. The brown slurry was warmed to room temperature, stirred for 1.5 h, then was quenched with water (20 ml) and was extracted with benzene (3×). The combined organic layers were dried over Na2SO4, filtered, and the filtrate was purified by chromatography on silica gel (hexanes:EtOAc, 17:3) to give the title compound. 1H-NMR (CDCl3) δ 1.34 (s, 12 H), 4.79 (s, 2 H), 6.96 (d, J=8.5 Hz, 2 H), 7.80 (d, J=8.5 Hz, 2 H). Mass Spectrum (ESI) m/e=260.2 (M+1, triplet).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1.6 mmol, 357 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | K2CO3 | 4.7 mmol, 650 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 3.2 mmol, 220 μl | BrCC#N | C2H2BrN
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-acetonitrile | CC1(OB(OC1(C)C)C1=CC=C(OCC#N)C=C1)C | C14H18BNO3
